US08486996B2
3,5-Dicyano-2-mercaptopyridine
A suspension of the sodium salt of 2-dimethoxymethyl-3-hydroxy-acrylonitrile (3.94 g, 23.86 mmol) in hydrochloric acid (20 ml, 0.5 M) is heated at 50° C. for 30 minutes. Excess hydrochloric acid is neturalized using triethylamine, before adding cyanoacetothioamide (2.39 g, 23.9 mmol) and a catalytic amound of benzyltrimethylammonium hydroxide. The mixture is stirred at room temperature for two hours, heated at 60° C. for 2 hours and then refluxed for 4 hours. Evaporation of the solvents leaves a solid that is purified on silicagel to yield 3,5-dicyano-2-marcaptopyridine.

reactant | sodium | [Na] | Na
reactant | 2-dimethoxymethyl-3-hydroxy-acrylonitrile | 23.86 mmol, 3.94 g | COC(C(C#N)=CO)OC | C6H9NO3
reactant | cyanoacetothioamide | 23.9 mmol, 2.39 g | C(#N)CC(N)=S | C3H4N2S
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | hydrochloric acid | 0.5 M, 20 ml | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,5-Dicyano-2-mercaptopyridine | C(#N)C=1C(=NC=C(C1)C#N)S | C7H3N3S
